reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([O:4][H:13])[C:5]#[N:6])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]1([O:4][H:13])[C:3]([H:10])([H:12])/[C:5]1=[N:6]\[H:11])([H:7])([H:8])[H:9],107.556618311047
[C:1]([C:2]([C:3]([O:4][C:5]([C:6]([H:16])([H:17])[H:18])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3](=[O+:4][C-:5]([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9].[C:6]([H:13])([H:16])([H:17])[H:18],95.22259490805428
[C:1]([O:2][C:3]([C@@:4]([O:5][H:14])([C:6]([O:7][H:17])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]([C:4]([O:5][H:14])=[C:6]([H:15])[H:16])([H:11])[H:12])([H:8])([H:9])[H:10].[O:7]([H:13])[H:17],72.97005905051951
[C:1]([C@@:2]([O:3][H:11])([C:4]#[C:5][H:12])[N+:7]#[C-:6])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([O:3][H:11])([C:4]#[C:5][H:12])[C:6]#[N:7])([H:8])([H:9])[H:10],38.439548727456696
[C-:5]#[O+:6].[H:8][H:12].[O:1]([C:2]1=[C:3]([H:9])[C:4]1([H:10])[H:11])[H:7]>>[O:1]([C:2]1([C:5](=[O:6])[H:12])[C:3]([H:8])([H:9])[C:4]1([H:10])[H:11])[H:7],37.304213862065374
[C-:1]([N+:2](=[C:3]([H:10])[H:12])[C:4]([C:5](=[O:6])[H:15])([H:13])[H:14])([H:8])[H:9].[H:7][H:11]>>[C:1]([N:2]([C:3]([H:10])([H:11])[H:12])[C:4]([C:5](=[O:6])[H:15])([H:13])[H:14])([H:7])([H:8])[H:9],13.542500526538504
[O:1]([C@@:2]1([H:8])[C@@:3]([O+:6]=[C-:5][H:10])([H:9])[O:4]1)[H:7]>>[O:1]([C:2]([C:3](=[O:4])[H:9])([C:5](=[O:6])[H:10])[H:8])[H:7],19.232366582281188
[O:1]=[C:2]([O:3][C:4]([C:5]#[N:6])([H:8])[H:9])[H:7]>>[O:1]=[C:5]1[C:4]([H:8])([H:9])[O:3][C:2]([H:7])=[N:6]1,120.372809207766
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([C:5]([C:6]([H:18])([H:19])[H:20])=[O:7])([H:15])[H:16])[H:11])([H:8])([H:9])[H:10].[H:17][H:21]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([C@@:5]([C:6]([H:18])([H:19])[H:20])([O:7][H:21])[H:17])([H:15])[H:16])[H:11])([H:8])([H:9])[H:10],69.8357313158709
[O:1]([C:2]([C:3]([C:4](=[O:5])[H:10])([H:8])[H:9])([H:6])[H:7])[H:11]>>[O:1]([C@@:2]1([H:7])[C:3]([H:8])([H:9])[C@:4]1([O:5][H:11])[H:10])[H:6],90.012885290924
[C:1]([C@@:2]1([H:11])[C@:3]([C:4]#[N:5])([H:12])[N:6]1[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])=[C:4]=[N:5][N:6]1[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10],105.28457122228599
[C:1]([C@@:2]([O:3][H:12])([C:6](=[O:7])[H:16])[H:11])([H:8])([H:9])[H:10].[C:4](=[N:5][H:15])([H:13])[H:14]>>[C:1]([C@@:2]([O:3][H:12])([C:4]([N:5]([C:6](=[O:7])[H:16])[H:15])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],71.0558244782276
[O:1]([C@@:2]([C:3](=[O:4])[H:9])([C:5]#[N:6])[H:8])[H:7]>>[O:1]1[C@@:2]([C:5]#[N:6])([H:8])[C@@:3]1([O:4][H:7])[H:9],55.0501657954656
[C:1]([C@:2]12[O:3][C@@:5]1([H:9])[C:4]2)([H:6])([H:7])[H:8]>>[C:1]([C:2](=[O:3])[C:4]#[C:5][H:9])([H:6])([H:7])[H:8],2.6323837193950936
[N:1](=[C:2](\[O:3][C:4](=[O:5])[H:9])[C:6](=[O:7])[H:10])\[H:8]>>[N:1]1([H:8])[C:2](=[O:3])[C@:6]1([O:7][C:4](=[O:5])[H:9])[H:10],42.6423502495918
[O:1]=[C:2]([C:3]([C:4]([C:5]([O:6][H:7])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C@@:3]1([H:10])[C:4]([H:11])([H:12])[C:5]([H:13])([H:14])[O:6]1)([H:8])[H:9])[H:7],76.2469059073715
[C:1]([C:2](=[O:3])[C:4]([C:5]#[N:6])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C@@:4]([C:2](=[O:3])[H:10])([C:5]#[N:6])[H:11])([H:7])([H:8])[H:9],93.6083202502769
[N:1]([C:2]([C@@:3]([N:4]([H:12])[H:13])([C:5]#[N:6])[H:11])([H:9])[H:10])([H:7])[H:8]>>[C@@:3]1([N:4]([H:12])[H:13])([H:11])[C:5]([H:8])=[N:6]1.[N:1](=[C:2]([H:9])[H:10])[H:7],87.91873436396902
[C:1]([C:2]([O:3][H:12])=[C:4]([H:13])[H:14])([H:8])([H:9])[H:10].[N:5](=[C:6](/[O:7][H:11])[H:16])\[H:15]>>[C:1]([C@@:2]([O:3][H:12])([C:4]([N:5]([C:6](=[O:7])[H:16])[H:15])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],44.604294975627695
[C:1]([N:3]([C-:2]=[O+:4][C:5]([C:6](=[O:7])[H:14])([H:12])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1](/[C:2](=[N:3]\[H:11])[O:4][C:5]([C:6](=[O:7])[H:14])([H:12])[H:13])([H:8])([H:9])[H:10],56.1263049587922
[N:1](=[C:2](/[O:3][C:4]([C:5]([C:6]#[N:7])([H:12])[H:13])([H:10])[H:11])[H:9])\[H:8]>>[C:4](=[C:5]([H:12])[H:13])([H:10])[H:11].[N:1](=[C:2](/[O:3][C:6]#[N:7])[H:9])\[H:8],90.0640179924254
[C:1]1([H:7])([H:8])[C:2]([H:9])=[C:3]([H:10])[C@@:4]2([H:11])[N:5]([H:12])[C@@:6]12[H:13]>>[C:1]1([H:7])([H:8])[C+:2]([H:9])[C:3]([H:10])=[C-:4][C@:6]1([N:5]([H:11])[H:12])[H:13],61.7207614425639
[C:1]([C@@:2]([O:3][H:12])([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6]#[N:7])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[O:3]/[C:6](=[N:7]\[H:12])[C@@:4]1([C:5]([H:14])([H:15])[H:16])[H:13])([H:8])([H:9])[H:10],72.25754139246541
[O:1]=[C:2]([H:7])[H:8].[O:3]=[C:4]([C:5]#[C:6][H:10])[H:9]>>[O:1]=[C:2]([O:3][C:4]([C:5]#[C:6][H:10])([H:8])[H:9])[H:7],47.31641604510542
[C:1](/[N:2]=[C:3](\[N:4]([H:10])[H:11])[C:5]#[N:6])([H:7])([H:8])[H:9]>>[C:1](=[N:2][C-:3]([N+:4]([H:9])([H:10])[H:11])[C:5]#[N:6])([H:7])[H:8],60.597014375162104
